US08241533B2
Dibutyl phthalate;
dimethyl phthalate; dioctyl phthalate; butyl benzoate; ethyl benzoate; tert-butyl alcohol; tributyl citrate; triethyl citrate; dioctyl adipate; didecyl adipate; and ditridecyl adipate.

reactant | dimethyl phthalate | C(C=1C(C(=O)OC)=CC=CC1)(=O)OC | C10H10O4
reactant | dioctyl phthalate | C(C=1C(C(=O)OCCCCCCCC)=CC=CC1)(=O)OCCCCCCCC | C24H38O4
reactant | butyl benzoate | C(C1=CC=CC=C1)(=O)OCCCC | C11H14O2
reactant | ethyl benzoate | C(C1=CC=CC=C1)(=O)OCC | C9H10O2
reactant | tributyl citrate | C(CC(O)(C(=O)OCCCC)CC(=O)OCCCC)(=O)OCCCC | C18H32O7
reactant | triethyl citrate | C(CC(O)(C(=O)OCC)CC(=O)OCC)(=O)OCC | C12H20O7
reactant | dioctyl adipate | C(CCCCC(=O)OCCCCCCCC)(=O)OCCCCCCCC | C22H42O4
reactant | didecyl adipate | C(CCCCC(=O)OCCCCCCCCCC)(=O)OCCCCCCCCCC | C26H50O4
reactant | ditridecyl adipate | C(CCCCC(=O)OCCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCC | C32H62O4
solvent | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
product | Dibutyl phthalate | C(C=1C(C(=O)OCCCC)=CC=CC1)(=O)OCCCC | C16H22O4
